US07601728B2
tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-3-methyl-2-(methylsulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Sodium tungstate dihydrate (139 mg) was added to a solution of tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-3-methyl-2-(methylthio)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate (230 mg) in a mixture of methanol (2 ml), acetic acid (0.7 ml) and water (0.25 ml), and the resulting mixture was heated to 50° C. A 30% aqueous hydrogen peroxide solution (0.29 ml) was added dropwise thereto, followed by stirring at 60° C. for 4 hours. After the reaction mixture was allowed to cool, the precipitate formed was collected by filtration, washed with water and then dried under reduced pressure to obtain the title compound (230 mg) as a white solid.

reactant | tert-butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-3-methyl-2-(methylthio)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 230 mg | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)SC)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H31ClN6O3S
reactant | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
reactant | water | 0.25 ml | O | H2O
reactant | hydrogen peroxide | 0.29 ml | OO | H2O2
solvent | methanol | 2 ml | CO | CH4O
catalyst | Sodium tungstate dihydrate | 139 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | tert-Butyl {(3R)-1-[5-(2-chlorobenzyl)-7-cyano-3-methyl-2-(methylsulfonyl)-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 230 mg | ClC1=C(CN2C(=C(C=3N=C(N(C(C32)=O)C)S(=O)(=O)C)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=CC=C1 | C26H31ClN6O5S
